US07951816B2
Methyl 4-[({4-[(tert-butoxycarbonyl)amino]butyl}amino)methyl]benzoate (Compound 3)
The same procedure as a series of reactions of Example 1 was carried out, except that methyl 4-formylbenzoate was used in place of 1-({[2-(trimethylsilyl)ethyloxy]methyl}-1H-imidazole-2-carboaldehyde and 1,1-dimethylethyl (4-aminobutyl)carbamate was used in place of {[4-(methyloxy)phenyl]methyl}amine, to obtain the title compound having the following physical properties.

reactant | methyl 4-formylbenzoate | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | {[2-(trimethylsilyl)ethyloxy]methyl}-1H-imidazole-2-carboaldehyde | C[Si](CCOCN1C(=NC=C1)C=O)(C)C | C10H18N2O2Si
reactant | 1,1-dimethylethyl (4-aminobutyl)carbamate | NCCCCNC(OC(C)(C)C)=O | C9H20N2O2
product | Methyl 4-[({4-[(tert-butoxycarbonyl)amino]butyl}amino)methyl]benzoate | C(C)(C)(C)OC(=O)NCCCCNCC1=CC=C(C(=O)OC)C=C1 | C18H28N2O4
